US07084139B2
6-Chloro-N-methyl-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide
To a solution of (2S)-2{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid (0.020 g) in DCM (2 ml) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.011 g), HOBT (0.007 g) and triethylamine (0.020 ml) and the mixture was stirred at room temperature for 30 min. Piperidine (0.006 ml) was added and the resultant mixture stirred at room temperature for 16 h. The mixture was partitioned between DCM and water. The aqueous layer was re-extracted with DCM and the combined, dried (over magnesium sulphate) organic extracts were concentrated under reduced pressure. The residue was purified using mass directed preparative h.p.l.c. to give the title compound (0.002 g) as a colourless gum.

reactant | (2S)-2{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid | 0.020 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O)C | C18H19ClN2O5S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.011 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.007 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Piperidine | 0.006 ml | N1CCCCC1 | C5H11N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.020 ml | C(C)N(CC)CC | C6H15N
product | 6-Chloro-N-methyl-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide | 0.002 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(N1CCCCC1)=O)C)=O)C | C23H28ClN3O4S
